US03956374
Step C: 4-(p-Chlorocinnamyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid
Triton B (1 ml., 40% in MeOH) is added to a stirred solution of 1,7-bis-(p-chlorophenyl)-4-phenyl-1,6-heptadien-3-one (16.10 g., 0.039 mole) in glyme (150 ml.), followed by addition of methyl acrylate (3.87 g., 0.045 mole) in glyme (25 ml.). After stirring for 24 hours, the solvent is removed in vacuo and water (600 ml.) and dilute hydrochloric acid (25 ml.) are added to the residue. The organic material is extracted into ether and these extracts are washed with water, saturated brine and dried (Na2SO4). After removal of the solvent, the residue is heated on a steam bath with a solution of 20% sodium hydroxide (20 ml.) in methanol (300 ml.) for 20 hours. The methanol is removed in vacuo and the residue is dissolved in water (1200 ml.). Extraction with ether removes unreacted ketone. Ether is expelled from the aqueous phase by warming. The solution is cooled in an ice bath, acidified with dilute hydrochloric acid (25 ml.) and the solid (yellowish) that precipitates is filtered and air-dried; yield 16.5 g., m.p. 75°-173°C. Several recrystallizations from n-butyl chloride gives material with m.p. 178.5°-180°C.

reactant | 1,7-bis-(p-chlorophenyl)-4-phenyl-1,6-heptadien-3-one | 0.039 mole, 16.10 g | ClC1=CC=C(C=C1)C=CC(C(CC=CC1=CC=C(C=C1)Cl)C1=CC=CC=C1)=O | C25H20Cl2O
reactant | methyl acrylate | 0.045 mole, 3.87 g | C(C=C)(=O)OC | C4H6O2
solvent | MeOH | CO | CH4O
solvent | glyme | 150 ml | C(OC)COC | C4H10O2
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
product | 4-(p-Chlorocinnamyl)-4-phenyl-5-oxo-7-(p-chlorophenyl)-6-heptenoic Acid | ClC1=CC=C(C=CCC(CCC(=O)O)(C(C=CC2=CC=C(C=C2)Cl)=O)C2=CC=CC=C2)C=C1 | C28H24Cl2O3
